US06479536B1
(+)-5,6-Dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline Hydrochloride
(+)-5,6-Dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline (296 mg, 0.65 mmol) was dissolved in ethyl acetate (5.0 ml) and then a 4 N solution of hydrogen chloride in ethyl acetate (0.38 ml) was added into this mixture. The solvent was removed under reduced pressure and the residue was crystallized from a mixed solution of ethyl acetate and diethyl ether (1:5). The crystals were collected by filtration and washed with a cold mixed solution of ethyl acetate and diethyl ether (1:5) to obtain 291 mg (87% yield) of the titled compound as a crystalline product. Melting point: 170-171° C. [α]D=+44.9° (c=0.495, chloroform)

reactant | (+)-5,6-Dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline | 0.65 mmol, 296 mg | COC=1C=C2CN(CC2=CC1OC)C=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C | C30H35NO3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 5.0 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.38 ml | C(C)(=O)OCC | C4H8O2
product | (+)-5,6-Dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline Hydrochloride | 291 mg, 87% yield | Cl.COC=1C=C2CN(CC2=CC1OC)C=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C | InChI=1S/C30H35NO3.ClH/c1-17-9-11-21(12-10-17)27-26-20(4)28(18(2)19(3)29(26)34-30(27,5)6)31-15-22-13-24(32-7)25(33-8)14-23(22)16-31;/h9-14,27H,15-16H2,1-8H3;1H
